US08686184B2
2-[3-((1R,2R)-1-Benzyl-2-carboxy-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic Acid (R1═—OH)
Two thirds of the crude 2-[3-((1R,2R)-1-benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic acid for the previous example, was combined with THF (8 mL) and 10 M aqueous NaOH (134 μL, 4.0 eq.). The reaction was stirred for 4 hours. Upon completion of the reaction was completed, AcOH (1.5 mL) was added and the product was purified by preparative HPLC to yield the title compound (50 mg, 95% purity). MS m/z [M+H]+ calc'd for C21H23NO6, 386.15. found 386.2.

reactant | 2-[3-((1R,2R)-1-benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic acid | C(C1=CC=CC=C1)[C@H]([C@@H](O)C(=O)OCC)NC(=O)CCCC1=C(C(=O)O)C=CC=C1 | C23H27NO6
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | NaOH | 10 M, 134 μL, 4.0 eq. | [OH-].[Na+]
solvent | AcOH | 1.5 mL | CC(=O)O | C2H4O2
product | 2-[3-((1R,2R)-1-Benzyl-2-carboxy-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic Acid | 50 mg, 95% | C(C1=CC=CC=C1)[C@H]([C@@H](O)C(=O)O)NC(=O)CCCC1=C(C(=O)O)C=CC=C1 | C21H23NO6
